US08334301B2
N-methyl-1-(2-phenyl-1H-imidazol-4-yl)methanamine dihydrochloride
To a solution of 2-phenyl-1H-imidazole-4-carbaldehyde (1.73 g) in ethanol (30 mL) was added 40% methylamine-methanol solution (2.36 g) and the mixture was stirred at 65° C. for 1 hr. The mixture was allowed to cool to room temperature, sodium borohydride (571 mg) was added and the mixture was stirred for 30 min. 1 mol/L Hydrochloric acid was added to the reaction mixture, and the mixture was concentrated under reduced pressure. A saturated aqueous sodium hydrogen carbonate solution was added to the residue, and the mixture was extracted with tetrahydrofuran. The extract was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (eluent: ethyl acetate-methanol=1:0→4:1) and dissolved in methanol (10 mL). A 4 mol/L hydrogen chloride-ethyl acetate solution (5 mL) was added, and the mixture was concentrated under reduced pressure. The residue was crystallized from ethyl acetate to give the title compound as colorless crystals (yield 1.06 g, yield 41%).

reactant | 2-phenyl-1H-imidazole-4-carbaldehyde | 1.73 g | C1(=CC=CC=C1)C=1NC=C(N1)C=O | C10H8N2O
reactant | methylamine methanol | 2.36 g | CN.CO
reactant | sodium borohydride | 571 mg | [BH4-].[Na+]
reactant | Hydrochloric acid | 1 mol/L | Cl | ClH
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | N-methyl-1-(2-phenyl-1H-imidazol-4-yl)methanamine dihydrochloride | yield 1.06 g, yield 41% | Cl.Cl.CNCC=1N=C(NC1)C1=CC=CC=C1 | InChI=1S/C11H13N3.2ClH/c1-12-7-10-8-13-11(14-10)9-5-3-2-4-6-9;;/h2-6,8,12H,7H2,1H3,(H,13,14);2*1H
